** sch_path: /foss/designs/uniccass-icdesign-tools/shared_xserver/LC_VCO_FPLL/xschem/LOOP_FILTER.sch
.subckt LOOP_FILTER OUT IN GND
*.PININFO OUT:O GND:B IN:I
C2 OUT GND cap_cmim w=18.63e-6 l=18.63e-6 m=4
C1 net1 GND cap_cmim w=48.34e-6 l=48.34e-6 m=16
R2 OUT IN rppd w=2e-6 l=407.22e-6 m=1 b=0
R1 net1 IN rppd w=2e-6 l=407.22e-6 m=1 b=0
R3 GND sub! ptap1 A=4.675e-11 P=0.0003117
R4 GND sub! ptap1 A=4.675e-11 P=0.0003117
.ends
.GLOBAL GND
