** sch_path: /home/designer/shared/LC_VCO_FPLL/xschem/LOOP_FILTER.sch
.subckt LOOP_FILTER OUT IN GND
*.PININFO OUT:O GND:B IN:I
CC2 OUT GND cap_cmim w=18.63e-6 l=18.63e-6 m=4
CC1 net1 GND cap_cmim w=48.34e-6 l=48.34e-6 m=16
RR2 OUT IN -14840.7142857143 $SUB=sub! $[rppd] w=2e-6 l=407.2e-6 b=0 m=1
RR1 net1 IN -14840.7142857143 $SUB=sub! $[rppd] w=2e-6 l=407.2e-6 b=0 m=1
RR3 GND sub! ptap1 A=4.6752e-11 P=0.00031168
RR4 GND sub! ptap1 A=4.6752e-11 P=0.00031168
.ends
.GLOBAL GND
